US05882628
N,N'-Bis(2,3-dihydroxypropionyl)-N,N'-bis(2-hydroxyethyl)-3,5-diamino-2,4,6-triiodobenzylalcohol
N,N'-Bis(2,2-dimethyl-1,3-dioxolane-4-carbonyl)-3,5-diamino-2,4,6-triiodobenzylacetate (204 mg, 0.25 mmol) was dissolved in a mixture of dimethylacetamide (5 ml) and DMSO (1.5 ml) containing K2CO3 (276 mg, 2.0 mmol) and 2-bromoethyl acetate (0.44 ml, 4.0 mmol). After stirring for 48 h, an aqueous NaH2PO4 buffer was added and the mixture was extracted with ether (2×150 ml). The combined organic phases were washed with water (6×100 ml), dried (Na2SO4) and evaporated. The solid residue was dissolved in a mixture of methanol (12 ml) and water (12 ml) and the pH was adjusted to 12 with aqueous NaOH. After stirring for 18 h, the solution was acidified with concentrated HCl (0.70 ml) and stirring was continued for 3 h. The solution was neutralized and the solvents were removed by evaporation. The product was purified by preparative HPLC. Yield: 98 mg (50%).

reactant | N,N'-Bis(2,2-dimethyl-1,3-dioxolane-4-carbonyl)-3,5-diamino-2,4,6-triiodobenzylacetate | 0.25 mmol, 204 mg | CC1(OCC(O1)C(=O)NC=1C(=C(CCC(=O)[O-])C(=C(C1I)NC(=O)C1OC(OC1)(C)C)I)I)C
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoethyl acetate | 4.0 mmol, 0.44 ml | C(C)(=O)OCCBr | C4H7BrO2
reactant | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
solvent | DMSO | 1.5 ml | CS(=O)C | C2H6OS
product | N,N'-Bis(2,3-dihydroxypropionyl)-N,N'-bis(2-hydroxyethyl)-3,5-diamino-2,4,6-triiodobenzylalcohol | OC(C(=O)N(C=1C(=C(CO)C(=C(C1I)N(CCO)C(C(CO)O)=O)I)I)CCO)CO | C17H23I3N2O9
